US09233979B2
Step 1: Synthesis of tert-butyl(6-chloro-1-trityl-1H-pyrazolo[4,3-c]pyridin-3-yl)(ethyl)carbamate
At 0° C., to a solution of 6-chloro-N-ethyl-1-trityl-1H-pyrazolo[4,3-c]pyridin-3-amine (1.0 g, 2.2 mmol) in anhydrous THF (20 mL) was added LiHMDS (1.0 M solution in toluene, 4.5 mL, 4.5 mmol) and the contents were stirred at the same temperature. After 15 min, Boc2O (0.58 g, 2.7 mmol) was added at the same temperature and the contents were allowed to warm to ambient temperature. After 2 h (TLC analysis indicated consumption of starting material), H2O (10 mL) was added and stirred for 5 min. The organic contents were extracted with EtOAc (3×25 mL) and the EtOAc layer washed with brine (1×20 mL), dried over anhydrous Na2SO4 and the solvents were removed under reduced pressure. The residue thus obtained was purified by a filter column to afford the title compound (0.8 g, 70% yield). MS ESI calc'd. for C32H31ClN4O2 [M+H]+ 539. Found 539.

reactant | 6-chloro-N-ethyl-1-trityl-1H-pyrazolo[4,3-c]pyridin-3-amine | 2.2 mmol, 1.0 g | ClC1=CC2=C(C=N1)C(=NN2C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)NCC | C27H23ClN4
reactant | LiHMDS | 4.5 mmol, 1.0 M, 4.5 mL | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | Boc2O | 2.7 mmol, 0.58 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | tert-butyl(6-chloro-1-trityl-1H-pyrazolo[4,3-c]pyridin-3-yl)(ethyl)carbamate | 0.8 g, 70% yield | C(C)(C)(C)OC(N(CC)C1=NN(C2=C1C=NC(=C2)Cl)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=O | C32H31ClN4O2
